US04636492
Boc-Phe-OH (26.5 g, 100 mmol) was coupled to H-Gly-Ala-OCH3.HCl (19.6 g, 100 mmol) using a mixed anhydride procedure. After crystallization from ethyl acetate:hexane, 30.2 g of Boc-Phe-Gly-Ala-OCH3 (m.p. 126.4°-127.8°) were obtained.

reactant | Boc-Phe-OH | 100 mmol, 26.5 g | N([C@@H](CC1=CC=CC=C1)C(=O)O)C(=O)OC(C)(C)C | C14H19NO4
reactant | H-Gly-Ala-OCH3.HCl | 100 mmol, 19.6 g | NCC(=O)N[C@@H](C)C(=O)OC.Cl
product | Boc-Phe-Gly-Ala-OCH3 | 30.2 g | N([C@@H](CC1=CC=CC=C1)C(=O)NCC(=O)N[C@@H](C)C(=O)OC)C(=O)OC(C)(C)C | C20H29N3O6
